US08865704B2
trans-4-(2-Oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid methyl ester
trans 4-[(2-Nitro-5-trifluoromethyl-phenylamino)-methyl]-cyclohexane carboxylic acid methyl ester (1.8 g, 5.0 mmol) was dissolved in 35 ml of a mixture 4:1 of dioxane and 25% ammonium hydroxide. Na2S2O4 (2.6 g, 15.0 mmol) was added and the mixture was stirred at 50° C. for 4 hours. The solvent was evaporated and the crude dissolved in 20 ml MeOH. 4 ml of concentrated (37%) HCl and 10 ml of water were added and the mixture was stirred at 50° C. for three hours and then at room temperature overnight. The MeOH was evaporated under reduced pressure and 20 ml of DCM and 5 ml of a saturated solution of Na2CO3 were added. The organic phase was separated and the solvent removed. The crude material was dissolved in THF (40 ml) and 1,1-carbonyldiimidazole (1.62 g, 10 mmol) was added. The mixture was stirred at room temperature overnight. The solvent was evaporated and the crude dissolved in DCM (20 ml). The organic solution was washed with 10 ml of 1M HCl and the solvent removed under reduced pressure. The titled compound was purified by silica column using ethyl acetate cyclohexane 1:1 as eluent. 0.87 g (yield 49%) of the titled compound were isolated.

reactant | trans 4-[(2-Nitro-5-trifluoromethyl-phenylamino)-methyl]-cyclohexane carboxylic acid methyl ester | 5.0 mmol, 1.8 g | COC(=O)[C@@H]1CC[C@H](CC1)CNC1=C(C=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C16H19F3N2O4
reactant | Na2S2O4 | 15.0 mmol, 2.6 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | ammonium hydroxide | [OH-].[NH4+]
product | trans-4-(2-Oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid methyl ester | 0.87 g, yield 49% | COC(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=C1C=C(C=C2)C(F)(F)F)=O | C17H19F3N2O3
